US07101912B2
(4-Chlorophenoxy)methyl (S)-3-(3,4-diethoxycarbonyloxyphenyl)-2-hydrazino-2-methylpropanoate (210)
To a mixture of Boc protected (4-chlorophenoxy)methyl (2S)-3-(3,4-dihydroxyphenyl)-2-hydrazino-2-methylpropanoate (639 mg, 1.37 mmol) and triethylamine (0.38 mL, 2.74 mmol) in dry dichloromethane was added diethyl pyrocarbonate (0.41 mL, 2.74 mmol) and a catalytic amount of 4-dimethylaminopyridine (DMAP), respectively, at 0° C. After stirring at 0° C. to room temperature for 2 h. the reaction was quenched with 10% citric acid, and the mixture was extracted with dichloromethane. The organic phase was separated and dried over sodium sulfate. After removing the solvent under reduced pressure, chromatography (SiO2, 20% ethyl acetate/hexane) of the residue gave 650 mg (78%) of Boc protected (2S)-3-(3,4-diethoxycarbonyloxyphenyl)-2-hydrazino-2-methylpropanoate, which was treated with 30%TFA/DCM at room temperature for 30 min to remove Boc. After removing the solvent, the residue was purified by HPLC (0.05% trifluoroacetic acid/water/acetonitrile) to give 100 mg of the title compound as a white powder. 1H NMR (CD3OD): δ 1.32 (s, 3H), 1.27 (t, J=7.2 Hz, 3H), 1.28 (t, J=7.2 Hz, 3H), 2.95 (dd, J=13.6 Hz, 2H), 4.34 (q, J=7.2 Hz, 2H), 4.35 (q, J=7.2 Hz, 2H), 5.84 (dd, J=6 Hz, J=14 Hz, 2H), 7.07 (d, J=8.0 Hz, 1H), 7.15 (s, 1H), 7.24 (d, J=8.4 Hz, 1H), 7.10 (d, J=8 Hz, 2H), 7.38 (d, J=8 Hz, 2H). MS (ESI) m/z 513.1 (M+H+).

reactant | triethylamine | 2.74 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl pyrocarbonate | 2.74 mmol, 0.41 mL | C(OCC)(=O)OC(=O)OCC | C6H10O5
reactant | (2S)-3-(3,4-diethoxycarbonyloxyphenyl)-2-hydrazino-2-methylpropanoate | C(C)OC(=O)OC=1C=C(C=CC1OC(=O)OCC)C[C@](C(=O)[O-])(C)NN
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-Chlorophenoxy)methyl (S)-3-(3,4-diethoxycarbonyloxyphenyl)-2-hydrazino-2-methylpropanoate | 100 mg | C(C)OC(=O)OC=1C=C(C=CC1OC(=O)OCC)C[C@](C(=O)OCOC1=CC=C(C=C1)Cl)(C)NN | C23H27ClN2O9
